US07601714B2
N-ethyl-N′-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)urea
To a solution of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (100 mg, 0.23 mmol) in DMF (2 mL) was added ethyl isocyanate (65 mg, 0.91 mmol). The reaction mixture was stirred at room temperature for 16 h. The resulting precipitate was filtered and triturated in MeOH. The solid was dried in a vacuum oven to afford 47 mg (41%) of the title compound, m/z 512.7 [M +1]+

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.23 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | ethyl isocyanate | 0.91 mmol, 65 mg | C(C)N=C=O | C3H5NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-ethyl-N′-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)urea | 47 mg, 41% | C(C)NC(=O)N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C22H28F3N7O4
